US07067517B2
Methyl-phenyl-carbamic acid 4-(methyl-pyridin-3-ylmethyl-carbamoyl)-phenyl ester
The title product was prepared from methyl-pyridin-3-ylmethyl-amine and 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester. The crude product was subjected to preparative HPLC (method C) (48%, clear colourless oil). HPLC-MS m/z=376.2 (M+1), Rt: 2.37 min.

reactant | methyl-pyridin-3-ylmethyl-amine | CNCC=1C=NC=CC1 | C7H10N2
reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
product | Methyl-phenyl-carbamic acid 4-(methyl-pyridin-3-ylmethyl-carbamoyl)-phenyl ester | CN(C(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)CC=1C=NC=CC1 | C22H21N3O3
